US07723527B2
4-Methyl-2-{6-[3-(1-methyl-piperidin-4-yl)-propoxy]-pyridin-3-yl}-1H-benzoimidazole
6-[3-(1-Methyl-Piperidin-4-yl)-propoxy]-nicotinonitrile. To a stirred solution of 3-(1-methyl-piperidin-4-yl)-propan-1-ol (5.0 g, 31.7 mmol, 1.1 equiv) in DMF (200 mL) under an atmosphere of nitrogen, was added 60% sodium hydride (1.73 g, 43.3 mmol, 1.5 equiv) portion wise. Once the initial effervescence had subsided, the mixture was heated at 60° C. for 1 h then cooled to rt. A solution of 6-chloronicotinonitrile (4.0 g, 28.9 mmol, 1.0 equiv) in DMF (20 mL) was then added and the mixture stirred for 16 h. The reaction was quenched with satd. aq. NaHCO3 (50 mL) and brine (50 mL). A precipitate was formed and was collected by vacuum filtration to afford 3.67 g of the desired product. The filtrate was concentrated to half the volume and a second crop of precipitate was collected and combined to give 5.64 g (76%) of an orange solid, which was used without further purification. MS (electrospray): mass calculated for C15H21N3O, 259.17; m/z found, 260.4 [M+H]+. 1H NMR (400 MHz, CDCl3): 8.46 (dd, J=2.3, 0.8 Hz, 1H), 7.77 (dd, J=8.6, 2.3 Hz, 1H), 6.80 (dd, J=8.6, 0.8 Hz, 1H), 4.34 (t, J=6.6 Hz, 2H), 2.96-2.82 (m, 2H), 2.25 (s, 3H), 1.92-1.68 (m, 7H), 1.37-1.34 (m, 2H), 0.89-0.81 (m, 2H). B. 6-[3-(1-Methyl-Piperidin-4-yl)-propoxy]-pyridine-3-carbaldehyde. To a cooled (0° C.) solution of 6-[3-(1-methyl-piperidin-4-yl)-propoxy]-nicotinonitrile (640 mg, 2.47 mmol, 1.0 equiv) in toluene (20 mL), under an atmosphere of nitrogen, was added 1 M diisobutylaluminum hydride in hexanes (3.70 mL, 3.70 mmol, 1.5 equiv) dropwise. The mixture was warmed to rt and stirred for 2 h. Methanol was added (5 mL), followed by 1 M H2SO4 (10 mL). After stirring for 30 min the solution was neutralized with satd. aq. NaHCO3, diluted with satd. aq. sodium potassium tartrate (10 mL), and stirred an additional 30 min or until clear. The mixture was extracted with chloroform (3×50 mL) and the combined extracts were dried (Na2SO4), filtered and concentrated. The crude product was purified by column chromatography (silica gel, 0-10% (2 M ammonia in methanol) in dichloromethane) to afford 598 mg (92%) of a colorless oil. MS (electrospray): mass calculated for C15H22N2O2, 262.17; m/z found, 263.1 [M+H]+. 1H NMR (400 MHz, CDCl3): 1H NMR (400 MHz, CDCl3): 9.87 (br s, 1H), 8.53 (d, J=2.3 Hz, 1H), 7.98 (dd, J=8.6, 2.3 Hz, 1H), 6.74 (d, J=8.6 Hz, 1H), 4.34 (t, J=6.6 Hz, 2H), 2.78-2.26 (m, 2H), 2.19 (s, 3H), 1.85-1.62 (m, 7H), 1.35-1.16 (m, 4H). C. 4-Methyl-2-{6-[3-(1-methyl-piperidin-4-yl)-propoxy]-pyridin-3-yl}-1H-benzoimidazole. This compound was prepared by the method described in General Procedure 3 using 6-[3-(1-methyl-piperidin-4-yl)-propoxy]-pyridine-3-carbaldehyde (100 mg, 0.38 mmol, 1.0 equiv), 3-methyl-benzene-1,2-diamine (46 mg, 0.38 mmol, 1.0 equiv) and Na2S2O5 (94 mg, 0.50 mmol, 1.3 equiv). Purification by Method 2 afforded 35 mg (25%) of the title compound. MS (electrospray): mass calculated for C22H28N4O, 364.23; m/z found, 365.4 [M+H]+. 1H NMR (400 MHz, CD3OD): 8.77 (s, 1H), 8.23 (dd, J=8.7, 2.3 Hz, 1H), 7.25 (m, 1H), 7.12 (t, J=7.5 Hz, 1H), 7.04-6.98 (m, 1H), 6.74 (d, J=8.7 Hz, 1H), 4.34 (t, J=6.6 Hz, 2H), 2.84-2.76 (m, 2H), 2.73-2.34 (br s, 3H), 2.23 (s, 3H), 1.92-1.83 (m, 2H), 1.81-1.62 (m, 4H), 1.39-1.17 (m, 5H). The following compounds in Examples 107-108 were prepared according to the procedures described in Example 106.

reactant | 6-[3-(1-Methyl-Piperidin-4-yl)-propoxy]-nicotinonitrile | CN1CCC(CC1)CCCOC1=NC=C(C#N)C=C1 | C15H21N3O
reactant | 3-(1-methyl-piperidin-4-yl)-propan-1-ol | 31.7 mmol, 5.0 g, 1.1 equiv | CN1CCC(CC1)CCCO | C9H19NO
reactant | sodium hydride | 43.3 mmol, 1.73 g, 1.5 equiv | [H-].[Na+]
reactant | 6-chloronicotinonitrile | 28.9 mmol, 4.0 g, 1.0 equiv | ClC1=NC=C(C#N)C=C1 | C6H3ClN2
solvent | DMF | 200 mL | CN(C)C=O | C3H7NO
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 4-Methyl-2-{6-[3-(1-methyl-piperidin-4-yl)-propoxy]-pyridin-3-yl}-1H-benzoimidazole | 3.67 g | CC1=CC=CC=2NC(=NC21)C=2C=NC(=CC2)OCCCC2CCN(CC2)C | C22H28N4O
